US08580762B2
1-(3-((((2R,3S,4R,5R)-5-(6-amino-9H-purin-9-yl)-3,4-dihydroxytetrahydrofuran-2-yl)methyl)(methyl)amino)cyclobutyl)-3-(4-(tert-butyl)phenyl)urea
A solution of 1-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)-3-(4-(tert-butyl)phenyl)urea (125 mg, 0.23 mmol) in TFA (0.90 mL) and 0.10 mL of water were stirred for 1 hour at room temperature. The reaction was concentrated to dryness, dissolved in MeOH (5 mL) and K2CO3 (60 mg) in 0.5 mL of water was added dropwise. The reaction was stirred at rt for 0.5 h and concentrated to obtain the residue which was purified by prep-TLC (DCM:MeOH:NH4OH=300:30:8, VAT) to obtain the desired compound (75 mg, Yield: 65%) as pale white solid. 1H NMR (500 MHz, MeOD): δH 8.27 (s, 1H), 8.21 (s, 1H), 7.28-7.20 (m, 4H), 6.00-5.99 (m, 1H), 4.77-4.75 (m, 1H), 4.28-4.23 (m, 2H), 3.92-3.88 (m, 1H), 2.92 (brs, 1H), 2.83-2.81 (m, 2H), 2.59-2.56 (m, 2H), 2.32 (s, 3H), 1.74-1.64 (m, 2H), 1.27 (s, 9 H) ppm; ESI-MS (m/z): 525.3 [M+1]+.

reactant | 1-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)-3-(4-(tert-butyl)phenyl)urea | 0.23 mmol, 125 mg | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)NC(=O)NC2=CC=C(C=C2)C(C)(C)C)C | C29H40N8O4
solvent | TFA | 0.90 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 0.10 mL | O | H2O
product | 1-(3-((((2R,3S,4R,5R)-5-(6-amino-9H-purin-9-yl)-3,4-dihydroxytetrahydrofuran-2-yl)methyl)(methyl)amino)cyclobutyl)-3-(4-(tert-butyl)phenyl)urea | 75 mg, Yield: 65% | NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)CN(C1CC(C1)NC(=O)NC1=CC=C(C=C1)C(C)(C)C)C)O)O | C26H36N8O4
